US05534529
9(i) 2-t-Butyl-5-[3-cyclohexyl-2-(4-methylphenyl)-sulfonyl-2-methylthiopropyl]-1-nitrobenzene
3.45 ml (5.52 mmol) of a 1.6M hexane solution of butyllithium was added dropwise over a period of 5 minutes to 10 ml of a tetrahydrofuran solution containing 1.73 g (5.52 mmol) of 1-[2-(4-methylphenyl)-sulfonyl-2-methylthioethyl]hexane (prepared as described in Preparation 8), maintained at -78° C. After 15 minutes, 12 ml of a dimethylformamide solution containing 1.68 g (5.26 mmol) of 5-iodomethyl-2-t-butyl-1-nitrobenzene (prepared as described in Preparation 51) was added dropwise. The reaction mixture was allowed to return to room temperature, after which it was stirred for 1 hour and 20 minutes. At the end of this time, a dilute aqueous solution of ammonium chloride was added, to stop the reaction. Water and diethyl ether were added, and the product was distributed between the organic solvent and water. The organic layer was separated and washed with a saturated aqueous solution of sodium chloride. The solvent was removed by distillation under reduced pressure, to obtain the title compound. Since this compound was unstable, however, it was used for the next step without purification.

reactant | butyllithium | C(CCC)[Li]
reactant | 1-[2-(4-methylphenyl)-sulfonyl-2-methylthioethyl]hexane | 5.52 mmol, 1.73 g | CC1=CC=C(C=C1)C(C(CCCCCC)=S(=O)=O)SC | C16H24O2S2
reactant | 5-iodomethyl-2-t-butyl-1-nitrobenzene | 5.26 mmol, 1.68 g | ICC=1C=CC(=C(C1)[N+](=O)[O-])C(C)(C)C | C11H14INO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | 2-t-Butyl-5-[3-cyclohexyl-2-(4-methylphenyl)-sulfonyl-2-methylthiopropyl]-1-nitrobenzene | C(C)(C)(C)C1=C(C=C(C=C1)CC(C(C1CCCCC1)=S(=O)=O)(SC)C1=CC=C(C=C1)C)[N+](=O)[O-] | C27H35NO4S2
